US06734181B2
(b) 2,3-Dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]-6,7-dihydropyrrolo[2,3-d]pyridazine-7-one
Hydrazine hydrate (1.92 g, 38.4 mmol) was added to a solution of methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate (7.96 g 31.9 mmol) in acetic acid (38 ml) at room temperature and the mixture was stirred at 90° C. for 1 hour. After the reaction was completed, the reaction mixture was cooled to room temperature and poured into ice-water. The crude crystals were collected by filtration, washed with water and dissolved in a mixture of chloroform and methanol (9:1). The organic layer was separated, washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was removed in vacuo and to the residue was added a mixture of toluene and hexane. The precipitate was collected by filtration to afford the desired compound (7.02 g, 95.0%) as a pale yellowish white powder.

reactant | Hydrazine hydrate | 38.4 mmol, 1.92 g | O.NN
reactant | methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate | 31.9 mmol, 7.96 g | C(=O)C1=C(N(C(=C1C)C)C[C@@H]1[C@H](C1)C)C(=O)OC | C14H19NO3
solvent | acetic acid | 38 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]-6,7-dihydropyrrolo[2,3-d]pyridazine-7-one | 7.02 g, 95.0% | CC1=C(C2=C(C(NN=C2)=O)N1C[C@@H]1[C@H](C1)C)C | C13H17N3O
